US08614206B2
To a solution of 4-methyl-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ol (212 mg, 0.83 mmol) and ammonium formate (386 mg, 6.6 mmol) in MeOH (15 mL) under nitrogen was added 10% palladium on carbon (88 mg, 0.83 mmol). The mixture was heated at 80° C. for 16 hr before being cooled, filtered through Celite® and concentrated under reduced pressure. The residue was partitioned between water (20 mL) and DCM (40 mL) and the organic layer was separated, passed through a phase separation cartridge and concentrated under reduced pressure to give 1-(4-amino-1-methyl-1H-pyrazol-5-yl)-4-methylazepan-4-ol as a red oil which was used without further purification. To a solution of DIPEA (0.06 mL, 0.33 mmol), PyBOP (151 mg, 0.29 mmol) and 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)-thiazole-4-carboxylic acid (89 mg, 0.25 mmol) in DCM (10 mL) (pre-stirred for 30 min) was added 1-(4-amino-1-methyl-1H-pyrazol-5-yl)-4-methylazepan-4-ol (47 mg, 0.21 mmol) and the mixture was stirred at room temperature for 16 hr. The mixture was diluted with DCM (30 mL) and water (20 mL). The organic layer was passed through a phase separation cartridge and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 2-(2,6-difluorophenyl)-4-(5-(4-hydroxy-4-methylazepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as an off-white solid (109 mg). This solid was stirred with HCl in 1,4-dioxane (4 M, 5 mL, 20 mmol) in MeOH (5 mL) at room temperature for 16 h. The solvent was removed under reduced pressure, the residue re-dissolved in MeOH and passed through an SCX column, washing with DCM and MeOH and eluting with 3-10% 7 N ammonia in MeOH/DCM. Purification via silica gel column chromatography (0-5% MeOH/DCM) gave 146 as an off-white solid (36 mg, 37% over 3 steps). 1H NMR (400 MHz, d4-MeOD) δ 7.68 (s, 1H), 7.52-7.43 (m, 1H), 7.17-7.10 (m, 2H), 3.74 (s, 3H), 3.56-3.44 (m, 1H), 3.19-3.10 (m, 1H), 3.04-2.96 (m, 1H), 2.14-2.02 (m, 1H), 1.94-1.80 (m, 4H), 1.74-1.64 (m, 1H), 1.23 (s, 3H) (1 proton coincident with solvent peak). LCMS (ES+) m/z 463 (M+1).

reactant | DIPEA | 0.33 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.29 mmol, 151 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 5-(tert-butoxycarbonylamino)-2-(2,6-difluorophenyl)-thiazole-4-carboxylic acid | 0.25 mmol, 89 mg | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=C(C=CC=C1F)F)C(=O)O | C15H14F2N2O4S
reactant | 1-(4-amino-1-methyl-1H-pyrazol-5-yl)-4-methylazepan-4-ol | 0.21 mmol, 47 mg | NC=1C=NN(C1N1CCC(CCC1)(O)C)C | C11H20N4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | tert-butyl 2-(2,6-difluorophenyl)-4-(5-(4-hydroxy-4-methylazepan-1-yl)-1-methyl-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 109 mg | FC1=C(C(=CC=C1)F)C=1SC(=C(N1)C(NC=1C=NN(C1N1CCC(CCC1)(C)O)C)=O)NC(OC(C)(C)C)=O | C26H32F2N6O4S
